* source EXERCISE_5
Q_Q1         N00633 N00674 N00637 Q2N2222
R_R1         N00633 N00647  10k TC=0,0 
R_R2         0 N00637  1k TC=0,0 
R_R3         0 N00674  4.7k TC=0,0 
R_R4         N00674 N00647  47k TC=0,0 
C_C2         IN N00674  1u  TC=0,0 
V_V1         N00647 0 12Vdc
V_V3         IN 0  
+SIN 0 100m 100k 0 0 0
C_C3         N00633 OUT  1u  TC=0,0 
R_R5         0 OUT  10k TC=0,0 
